US09079919B2
(R)—N-(3′-Amino-6′,6′-difluoro-3,4,6′,7′-tetrahydro-2H,2′H-spiro[naphthalene-1,5′-[1,4]oxazepine]-7-yl)-5-chloropicolinamide
The condensation of (R)-6′,6′-difluoro-3,4,6′,7′-tetrahydro-2H,2′H-spiro[naphthalene-1,5′-[1,4]oxazepine]-3′,7-diamine (intermediate C4.1) and 5-chloropicolinic acid yielded the title compound (45% yield) as an off-white solid. MS (ISP): m/z=421.1 [M+H]+.

reactant | (R)-6′,6′-difluoro-3,4,6′,7′-tetrahydro-2H,2′H-spiro[naphthalene-1,5′-[1,4]oxazepine]-3′,7-diamine | FC1([C@@]2(N=C(COC1)N)CCCC1=CC=C(C=C12)N)F | C14H17F2N3O
reactant | 5-chloropicolinic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | (R)—N-(3′-Amino-6′,6′-difluoro-3,4,6′,7′-tetrahydro-2H,2′H-spiro[naphthalene-1,5′-[1,4]oxazepine]-7-yl)-5-chloropicolinamide | 45% yield | NC=1COCC([C@@]2(N1)CCCC1=CC=C(C=C12)NC(C1=NC=C(C=C1)Cl)=O)(F)F | C20H19ClF2N4O2
